US04659857
Preparation of p-fluorohippuric acid
A solution of glycine (15 g, 0.2 mol) in 175 mL of 5% aqueous sodium hydroxide is cooled to 10° C. to 15° C. p-Fluorobenzoyl chloride (31.6 g, 0.2 mol) is then added, dropwise, to the mixture and stirred vigorously for 0.5 hour, while maintaining the temperature of the mixture at about 10° C. to 15° C. The pH of the reaction mixture is maintained at pH>9 by the dropwise addition at 50% aqueous sodium hydroxide. The mixture is stirred at 10° C. to 15° C. for two hours with the resulting clear solution then acidified with concentrated HCl to pH=1. The resulting product is filtered off, washed with water (2×100 mL) and air dried to give a white solid (30.8 g, 78.1%); mp=161°-163° C.

reactant | glycine | 0.2 mol, 15 g | NCC(=O)O | C2H5NO2
reactant | p-Fluorobenzoyl chloride | 0.2 mol, 31.6 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 175 mL | [OH-].[Na+]
product | p-fluorohippuric acid | 30.8 g, 78.1% | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
